US06340685B1
Preparation of N-(3-cyclohexylmethylamino-2-hydroxypropyl)-4-benzylpiperidinyl-indole-5-carboxamide
The title compound was prepared according to scheme 7. To an ice-cold solution of 1.0 g (3.0 mmol) of 4-benzylpiperidinyl indole-5-carboxamide in acetone was added 15 mmol of powdered KOH followed by 3.0 mmol of epibromohydrin and the mixture was stirred for 30 min. The mixture was filtered and the solution was evaporated. The residue was dissolved in ethyl acetate, washed with water, dried and evaporated. After purification by silica gel column chromatography 435 mg of epoxide was obtained. MS (M+373).

reactant | 4-benzylpiperidinyl indole-5-carboxamide | 3.0 mmol, 1.0 g | C(C1=CC=CC=C1)C1CCN(CC1)C=1NC2=CC=C(C=C2C1)C(=O)N | C21H23N3O
reactant | KOH | 15 mmol | [OH-].[K+]
reactant | epibromohydrin | 3.0 mmol | C(Br)C1CO1 | C3H5BrO
solvent | acetone | CC(=O)C | C3H6O
product | N-(3-cyclohexylmethylamino-2-hydroxypropyl)-4-benzylpiperidinyl-indole-5-carboxamide | C1(CCCCC1)CNCC(CNC(=O)C=1C=C2C=C(NC2=CC1)N1CCC(CC1)CC1=CC=CC=C1)O | C31H42N4O2
